US07314886B2
1.E. Synthesis of 2-(6-Bromo-1,8-diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-ethanol
To a solution of (6-bromo-1,8-diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid ethyl ester (5.2 g, 13.2 mmol) in tetrhydrofuran at room temperature under nitrogen was dropped a 2.0 M solution of lithium borohydride in tetrahydrofuran. The reaction mixture was heated at 90° C. (oil bath) for 5 hours. After cooling to room temperature, it was quenched with 5% hydrochloric acid solution until the excess lithium borohydride was destroyed. Water was added and the mixture extracted with ethyl acetate. Extracts were dried over magnesium sulfate and concentrated under reduced pressure. The crude product was purified by column chromatography (silica gel, 50% ethyl acetate/hexane) to give the title compound (3.80 g, 82% yield). 1H NMR (CDCl3) δ8.07 (s, 1H), 7.64 (d, 1H), 7.26 (d, 1H), 4.17 (m, 2H), 3.86 (m, 2H), 2.94 (m, 3H), 2.87 (dt, 1H), 2.76 (t, br, 1H), 2.36 (m, 1H), 2.24 (m, 1H), 2.13 (m, 2H), 1.49 (t, 3H), 1.08 (t, 3H). ES-MS (m/z) 352 [M+1]+, 350 [M−1]−.

reactant | (6-bromo-1,8-diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid ethyl ester | 13.2 mmol, 5.2 g | C(C)OC(CC1(OCCC2=C1NC1=C(C=C(C=C21)Br)CC)CC)=O | C19H24BrNO3
reactant | lithium borohydride | [BH4-].[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(6-Bromo-1,8-diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-ethanol | 3.80 g, 82% yield | BrC=1C=C2C3=C(NC2=C(C1)CC)C(OCC3)(CC)CCO | C17H22BrNO2
